US09371327B2
Step 3: 1-isobutyl-6-(4-methoxybenzyl)-3-methyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
A suspension of 1-isobutyl-3-methyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (1.8 g, 8.3 mmol), 1-(chloromethyl)-4-methoxybenzene (1.3 mL, 9.9 mmol) and potassium carbonate (1.7 g, 12 mmol) in anhydrous DMF is stirred at room temperature overnight. The mixture is diluted with 100 mL of water, and then extracted with CH2Cl2 three times. The combined organic phase is washed with brine, and then dried with anhydrous Na2SO4. After filtration, the filtrate is concentrated under vacuum. The residue is purified by silica gel chromatography to give product as pale yellow solids. MS (ESI) m/z 342.2 [M+H]+.

reactant | 1-isobutyl-3-methyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 8.3 mmol, 1.8 g | C(C(C)C)N1C(N(C(C=2C1=CNC2)=O)C)=O | C11H15N3O2
reactant | 1-(chloromethyl)-4-methoxybenzene | 9.9 mmol, 1.3 mL | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | potassium carbonate | 12 mmol, 1.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 1-isobutyl-6-(4-methoxybenzyl)-3-methyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | C(C(C)C)N1C(N(C(C=2C1=CN(C2)CC2=CC=C(C=C2)OC)=O)C)=O | C19H23N3O3
